US04282242
Ethyl 1-(2-pyridylmethyl)-5-(4-phenylbenzoyl)-pyrrole-3-carboxylate (5.3 g.) was combined with 150 ml. of dioxane, 5 ml. of water and 10 g. of selenium dioxide and refluxed for approximately 16 hours. Insoluble material was separated by filtration, the filtrate was diluted with 150 ml. of ether and 150 ml. of water, the mixture equilibrated, the ether phase separated, back-washed twice with 100 ml. portions of water, filtered and concentrated to yield ethyl 5-(4-phenylbenzoyl)pyrrole-3-carboxylate (3.1 g, solid; Rf 0.4 on silica gel thin layer chromatography with ethyl acetate-1/hexane-5/5% acetic acid as eluant).

reactant | Ethyl 1-(2-pyridylmethyl)-5-(4-phenylbenzoyl)-pyrrole-3-carboxylate | 5.3 g | N1=C(C=CC=C1)CN1C=C(C=C1C(C1=CC=C(C=C1)C1=CC=CC=C1)=O)C(=O)OCC | C26H22N2O3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | water | O | H2O
product | ethyl 5-(4-phenylbenzoyl)pyrrole-3-carboxylate | 3.1 g, 5% | C1(=CC=CC=C1)C1=CC=C(C(=O)C2=CC(=CN2)C(=O)OCC)C=C1 | C20H17NO3
